US07179801B2
To a suspension of lithium aluminum hydride (465 mg) in tetrahydrofuran (10 ml) was added 7-[(E)-2-nitroethenyl]-2,3-dihydro-1H-imidazo[1,2-b]pyrazole-1-carbaldehyde (300 mg) under ice-cooling. The mixture was refluxed for 1.5 hours. After cooling on an ice bath, sodium fluoride (2.06 g) and water (0.882 ml) were added to the reaction mixture. The insoluble materials were removed by filtration. The filtrate was concentrated in vacuo to give 2-(2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)ethylamine (165 mg). This product was used in the next step without further purification.

reactant | lithium aluminum hydride | 465 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 7-[(E)-2-nitroethenyl]-2,3-dihydro-1H-imidazo[1,2-b]pyrazole-1-carbaldehyde | 300 mg | [N+](=O)([O-])/C=C/C1=C2N(N=C1)CCN2C=O | C8H8N4O3
reactant | sodium fluoride | 2.06 g | [F-].[Na+]
reactant | water | 0.882 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)ethylamine | 165 mg | N1CCN2N=CC(=C21)CCN | C7H12N4
